US07214690B2
This compound was prepared according to General Method 6 (EXAMPLE 3) from (3R)-3-ethyl-3,4-dihydro-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline (22 mg, 0.06 mmol) and NaBH4 pellets (large excess, >10 equiv) in 4 mL chlorodifluoroacetic acid (0.02 M) stirred at rt for 12 h, to afford 17 mg (61%) of (3R)-4-(2-chloro-2,2-difluoroethyl)-3-ethyl-3,4-dihydro-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline. 1H NMR (500 MHz, CDCl3) 7.44 (d, 1H, J=9.3), 7.32 (d, J=1H, 9.3), 7.21 (s, 1H), 5.50 (m, 1H), 4.39 (dd, 1H, J=10.7, 1.5), 4.09 (m, 1H), 3.99 (dd, 1H, J=10.7, 2.4), 3.92 (m, 1H), 3.33 (m, 1H), 1.6 (m, 2H), 1.39 (d, 3H, J=6.3), 1.38 (d, 3H, J=6.3), 0.99 (t, 3H, J=7.3).

reactant | (3R)-3-ethyl-3,4-dihydro-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 0.06 mmol, 22 mg | C(C)[C@H]1NC=2C(=C3C(=CC(=NC3=CC2)OC(C)C)C(F)(F)F)OC1 | C17H19F3N2O2
reactant | NaBH4 | [BH4-].[Na+]
reactant | chlorodifluoroacetic acid | 0.02 M, 4 mL | ClC(C(=O)O)(F)F | C2HClF2O2
product | (3R)-4-(2-chloro-2,2-difluoroethyl)-3-ethyl-3,4-dihydro-8-isopropoxy-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 17 mg, 61% | ClC(CN1[C@@H](COC2=C3C(=CC(=NC3=CC=C21)OC(C)C)C(F)(F)F)CC)(F)F | C19H20ClF5N2O2
